US07151105B2
Step 1: 4-Bromo-2-ethyl-phenol
A solution of tetrabutyl ammonium tribromide (39.56 g, 0.08mol) in CHCl3 (100 mL) was added to a stirred solution of 2-ethyl-phenol (10.0 g, 0.08 mol) dissolved in CHCl3 (100 mL). The reaction mixture was stirred for 2 hrs and then quenched with 5% solution of sodium thiosulfate (100 mL). The biphasic mixture was stirred for 30 mins and then the layers were separated. The organic layer was washed with 1 N HCl, brine, dried over Na2SO4 and concentrated to a red oil. Purification by flash column chromatography (0% to 15% EtOAc in hexanes) gave the product as an oil (14 g.). LCMS: APCI−VE=200 M/E.

reactant | tetrabutyl ammonium tribromide | 0.08mol, 39.56 g | [Br-].[Br-].[Br-].C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 2-ethyl-phenol | 0.08 mol, 10.0 g | C(C)C1=C(C=CC=C1)O | C8H10O
solvent | CHCl3 | 100 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-Bromo-2-ethyl-phenol | 14 g | BrC1=CC(=C(C=C1)O)CC | C8H9BrO
